US06630128B1
3,4,5-Trihexadecyloxy-benzaldehyde
The title compound was prepared according to the method as described in Example 9 above from 1-bromohexadecane and 3,4,5-trihydroxy-benzaldehyde, except the reaction mixture was heated at reflux for 4 days. After cooling, the solid material was removed by filtration and the solid washed with dichloromethane. The combined organic extracts were evaporated under reduced pressure to yield the title compound which was recrystallised from dichloromethane-ethanol.

reactant | 1-bromohexadecane | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | 3,4,5-trihydroxy-benzaldehyde | OC=1C=C(C=O)C=C(C1O)O | C7H6O4
product | 3,4,5-Trihexadecyloxy-benzaldehyde | C(CCCCCCCCCCCCCCC)OC=1C=C(C=O)C=C(C1OCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCC | C55H102O4
